* source KINGCELLOOUTBUFFER
X_D3         N14723 N14774 D1N5314
X_D4         N14767 N14727 D1N5314
Q_Q1         N14797 N14854 N14801 MPS8099
Q_Q2         N14789 N14850 N14793 MPS8599
Q_Q3         N14723 N14846 N14741 Q2N3053
Q_Q4         N14749 N14763 N14727 Q2N3073
R_R1         INPUT N14850  10 TC=0,0 
R_R2         N14854 INPUT  10 TC=0,0 
R_R3         N14793 N14749  10 TC=0,0 
R_R4         N14797 N14741  10 TC=0,0 
R_R5         N14789 N14774  51 TC=0,0 
R_R6         N14801 N14767  51 TC=0,0 
R_R7         N14767 N14763  10 TC=0,0 
R_R8         N14774 N14846  10 TC=0,0 
R_R9         OUTPUT N14741  10 TC=0,0 
R_R10         N14749 OUTPUT  10 TC=0,0 
V_V1         N14723 0 25Vdc
V_V2         0 N14727 25Vdc
R_RL         0 OUTPUT  32 TC=0,0 
V_V3         INPUT 0  
+SIN 0 0.1 1000 0 0 0
