* source KINGCELLO_DIFF_INPUTSTAGE
Q_Q1         N14814 N15272 N14788 MPS8099
Q_Q2         N14818 N15268 N14792 MPS8099
J_J1         VOUT1 N14950 N14814 J2N4391 
J_J2         VOUT2 N14954 N14818 J2N4391 
Q_Q3         N14691 N14668 N14664 Q2SC1815
Q_Q4         N14770 N14691 N14668 Q2SC1815
R_R1         N14770 N14788  10 TC=0,0 
R_R2         N14770 N14792  10 TC=0,0 
V_V1         N14931 0 25Vdc
V_V2         0 N14664 25Vdc
R_R3         N14664 N14668  150 TC=0,0 
R_R4         N14788 N14950  60 TC=0,0 
R_R5         N14792 N14954  60 TC=0,0 
R_R6         VOUT1 N14931  1K TC=0,0 
R_R7         VOUT2 N14931  1K TC=0,0 
R_R8         0 N15268  1K TC=0,0 
R_R9         N15272 VIN1  1K TC=0,0 
V_V3         VIN1 0  
+SIN 0 0.01 1K 0 0 0
Q_Q7         N16525 N16504 N16508 Q2SC1815
Q_Q8         N16532 N16525 N16504 Q2SC1815
V_V6         0 N16508 12Vdc
V_V7         N16532 0 12Vdc
R_R12         N16504 N16508  150 TC=0,0 
R_R13         N16525 0  10K TC=0,0 
R_R14         N14691 0  10K TC=0,0 
R_R11         N17796 N17814  10 TC=0,0 
Q_Q5         VOUT3 N18076 N17810 MPS8099
Q_Q9         N17782 N17742 N17738 Q2SC1815
V_V5         0 N17738 25Vdc
Q_Q10         N17796 N17782 N17742 Q2SC1815
R_R15         N17738 N17742  150 TC=0,0 
R_R10         N17796 N17810  10 TC=0,0 
Q_Q6         VOUT4 N18070 N17814 MPS8099
R_R20         0 N18070  1K TC=0,0 
V_V4         N17910 0 25Vdc
R_R19         VOUT4 N17910  1K TC=0,0 
R_R22         N17782 0  10K TC=0,0 
V_V8         VIN2 0  
+SIN 0 0.01 1K 0 0 0
R_R18         VOUT3 N17910  1K TC=0,0 
R_R21         N18076 VIN2  1K TC=0,0 
